*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.6
* < ILD_dielectric_const = 4.2
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_0 1 2 3 4 REF
C_C1 1 REF 0.6274101966699pf
C_C2 1 2 13.258432702505pf
C_C3 1 3 0.0192288221469pf
C_C4 1 4 0.1796600753762pf
C_C5 2 REF 1.6288771799603pf
C_C6 2 3 0.0949202147058pf
C_C7 3 REF 0.3354682914881pf
C_C8 3 4 7.0270389569237pf
C_C9 4 REF 0.3407240819938pf
L_L1 3 5 1.315553526257nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_1 1 2 3 4 REF
C_C1 1 REF 0.4756096586814pf
C_C2 1 2 13.492383249075pf
C_C3 1 3 0.0184668409279pf
C_C4 1 4 0.181073787077pf
C_C5 2 REF 1.3032501120939pf
C_C6 2 3 0.0952509857649pf
C_C7 3 REF 0.3359054319294pf
C_C8 3 4 5.2177950862118pf
C_C9 4 REF 0.3395154359658pf
R_R1 1 2 823.39727967607
L_L1 3 5 1.3170509722305nh
R_RL1 5 4 2.449928084e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_2 1 2 3 4 REF
C_C1 1 REF 0.3803581167221pf
C_C2 1 2 13.728375656957pf
C_C3 1 3 0.0176802180057pf
C_C4 1 4 0.1831672413429pf
C_C5 2 REF 1.0697824705146pf
C_C6 2 3 0.0956800305839pf
C_C7 3 REF 0.3362712636238pf
C_C8 3 4 3.9539555840907pf
C_C9 4 REF 0.3383451538102pf
R_R1 1 2 820.51511181655
L_L1 3 5 1.3182983785544nh
R_RL1 5 4 1.5424649007e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_3 1 2 3 4 REF
C_C1 1 REF 0.3105065786202pf
C_C2 1 2 14.045198794618pf
C_C3 1 3 0.0166511529494pf
C_C4 1 4 0.1866095625586pf
C_C5 2 REF 0.8669556724618pf
C_C6 2 3 0.0963456775203pf
C_C7 3 REF 0.3366481573109pf
C_C8 3 4 2.8659421058236pf
C_C9 4 REF 0.3370062141016pf
R_R1 1 2 847.28472252425
L_L1 3 5 1.3195614661649nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_4 1 2 3 4 REF
C_C1 1 REF 0.266877236143pf
C_C2 1 2 14.463465653774pf
C_C3 1 3 0.0153513101047pf
C_C4 1 4 0.1916301933206pf
C_C5 2 REF 0.7060332964037pf
C_C6 2 3 0.0972977829093pf
C_C7 3 REF 0.3370158404153pf
C_C8 3 4 1.9934860645422pf
C_C9 4 REF 0.3356386265108pf
R_R1 1 2 917.73654078447
L_L1 3 5 1.3208233819743nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_5 1 2 3 4 REF
C_C1 1 REF 0.2481883844658pf
C_C2 1 2 14.935345205271pf
C_C3 1 3 0.0139421219897pf
C_C4 1 4 0.1975326102874pf
C_C5 2 REF 0.6030943974992pf
C_C6 2 3 0.098421873687pf
C_C7 3 REF 0.3373248683904pf
C_C8 3 4 1.4157560959583pf
C_C9 4 REF 0.3345412197604pf
L_L1 3 5 1.3218427067429nh
R_RL1 5 4 -1.645329102e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_6 1 2 3 4 REF
C_C1 1 REF 0.2427320742553pf
C_C2 1 2 15.465217610183pf
C_C3 1 3 0.0123952578903pf
C_C4 1 4 0.2042187394099pf
C_C5 2 REF 0.5364656519794pf
C_C6 2 3 0.0997199936087pf
C_C7 3 REF 0.337601084854pf
C_C8 3 4 1.0196923343948pf
C_C9 4 REF 0.3337019394225pf
L_L1 3 5 1.3226798657593nh
R_RL1 5 4 -2.518417821e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_7 1 2 3 4 REF
C_C1 1 REF 0.2449015276328pf
C_C2 1 2 16.165232748093pf
C_C3 1 3 0.0103686906573pf
C_C4 1 4 0.2130010170884pf
C_C5 2 REF 0.4880366338621pf
C_C6 2 3 0.1014818460738pf
C_C7 3 REF 0.3379018771157pf
C_C8 3 4 0.7033053263213pf
C_C9 4 REF 0.3330161017615pf
L_L1 3 5 1.3234691120692nh
R_RL1 5 4 -3.347669704e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_8 1 2 3 4 REF
C_C1 1 REF 0.2518944235122pf
C_C2 1 2 17.065498977016pf
C_C3 1 4 0.2241480160183pf
C_C4 2 REF 0.4563383183735pf
C_C5 2 3 0.1038206552838pf
C_C6 3 REF 0.3382229335842pf
C_C7 3 4 0.4593077173811pf
C_C8 4 REF 0.3325415050928pf
L_L1 3 5 1.3242134877214nh
R_RL1 5 4 -4.087629213e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_9 1 2 3 4 REF
C_C1 1 REF 0.2609071506169pf
C_C2 1 2 18.230310950576pf
C_C3 1 4 0.2383085859513pf
C_C4 2 REF 0.440236023105pf
C_C5 2 3 0.106976429965pf
C_C6 3 REF 0.3385473325614pf
C_C7 3 4 0.2790634202074pf
C_C8 4 REF 0.3323097091636pf
L_L1 3 5 1.3248737415826nh
R_RL1 5 4 -4.630968579e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_10 1 2 3 4 REF
C_C1 1 REF 0.2687665338344pf
C_C2 1 2 19.717607769068pf
C_C3 1 4 0.2560264804268pf
C_C4 2 REF 0.4375665210909pf
C_C5 2 3 0.1112044207694pf
C_C6 3 REF 0.3388357555259pf
C_C7 3 4 0.1481629800681pf
C_C8 4 REF 0.3322929186923pf
L_L1 1 5 98.080124539453nh
R_RL1 5 2 14.6368401663
L_L2 3 6 1.325462949818nh
R_RL2 6 4 -4.922114516e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_11 1 2 3 4 REF
C_C1 1 REF 0.2722451507231pf
C_C2 1 2 21.653308768058pf
C_C3 1 4 0.2785706127591pf
C_C4 2 REF 0.4477222596881pf
C_C5 2 3 0.1170091444149pf
C_C6 3 REF 0.3390328290836pf
C_C7 3 4 0.055750669074pf
C_C8 4 REF 0.332447117145pf
L_L1 1 5 61.783458702376nh
R_RL1 5 2 8.2722332078085
L_L2 3 6 1.3259270730703nh
R_RL2 6 4 -4.870965137e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_12 1 2 3 4 REF
C_C1 1 REF 0.2683107203498pf
C_C2 1 2 24.188263569038pf
C_C3 1 4 0.3074368116068pf
C_C4 2 REF 0.4700469539787pf
C_C5 2 3 0.1250006431178pf
C_C6 3 REF 0.3390860710946pf
C_C7 4 REF 0.3327097133243pf
L_L1 1 5 38.844968708388nh
R_RL1 5 2 4.5173893383775
L_L2 3 6 1.3262207694661nh
R_RL2 6 4 -4.451549404e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_13 1 2 3 4 REF
C_C1 1 REF 0.2533367033802pf
C_C2 1 2 27.645672856041pf
C_C3 1 4 0.3459447943493pf
C_C4 2 REF 0.5057098806953pf
C_C5 2 3 0.1363949369117pf
C_C6 3 REF 0.3389487859438pf
C_C7 4 REF 0.3330423449894pf
L_L1 1 5 24.170521970285nh
R_RL1 5 2 2.5754405240814
L_L2 3 6 1.3260113933293nh
R_RL2 6 4 -3.655008879e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_14 1 2 3 4 REF
C_C1 1 REF 0.2235796440701pf
C_C2 1 2 32.515906427864pf
C_C3 1 4 0.3991870817427pf
C_C4 2 REF 0.5564785796696pf
C_C5 2 3 0.1529872772052pf
C_C6 3 REF 0.3386028847934pf
C_C7 4 REF 0.3334343812862pf
R_R1 1 2 -873.3329369456
L_L1 1 5 14.669846111457nh
R_RL1 5 2 1.8128565618501
L_L2 3 6 1.3256533921227nh
R_RL2 6 4 -2.524398508e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_15 1 2 3 4 REF
C_C1 1 REF 0.1718733011664pf
C_C2 1 2 39.896859399472pf
C_C3 1 4 0.4787327468247pf
C_C4 2 REF 0.6282547220535pf
C_C5 2 3 0.1787099344255pf
C_C6 3 REF 0.3380308051019pf
C_C7 4 REF 0.3339338635136pf
R_R1 1 2 -646.6476217305
L_L1 1 5 8.5159806870197nh
R_RL1 5 2 2.6101505876741
L_L2 3 6 1.3250398204347nh
R_RL2 6 4 -1.126373354e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_16 1 2 3 4 REF
C_C1 1 REF 0.0772140917996pf
C_C2 1 2 53.017443646377pf
C_C3 1 4 0.6188916510401pf
C_C4 2 REF 0.7420816247675pf
C_C5 2 3 0.225005968295pf
C_C6 3 REF 0.3371537460652pf
C_C7 4 REF 0.3347434040519pf
R_R1 1 2 -450.0948484658
L_L1 1 5 4.951512093889nh
R_RL1 5 2 -0.413184631688
L_L2 3 6 1.3239347364819nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_17 1 2 3 4 REF
C_C1 1 2 80.581789839132pf
C_C2 1 4 0.9122168295637pf
C_C3 2 REF 0.9535410076304pf
C_C4 2 3 0.322691126206pf
C_C5 3 REF 0.3357987215252pf
C_C6 4 REF 0.336454024587pf
R_R1 1 2 -295.0964430865
L_L1 1 5 2.0488027840729nh
R_RL1 5 2 0.0910441703982
L_L2 1 6 86.446507027027nh
R_RL2 6 3 0.035891916623
L_L3 1 7 85.673823312922nh
R_RL3 7 4 0.0363097397356
L_L4 2 8 86.493535067949nh
R_RL4 8 3 0.0055941614506
L_L5 2 9 85.723371575442nh
R_RL5 9 4 0.005428402039
L_L6 3 10 1.3216499058601nh
R_RL6 10 4 1.9949650109e-5
Kn_K1 L_L1 L_L2 0.0752075440924
Kn_K2 L_L1 L_L3 0.0754508156937
Kn_K3 L_L1 L_L4 -0.078719862413
Kn_K4 L_L1 L_L5 -0.079167777024
Kn_K5 L_L2 L_L3 0.9923313601221
Kn_K6 L_L2 L_L4 0.9881531400087
Kn_K7 L_L2 L_L5 0.9804176895514
Kn_K8 L_L2 L_L6 -0.097967929417
Kn_K9 L_L3 L_L4 0.9804491440086
Kn_K10 L_L3 L_L5 0.9880465038579
Kn_K11 L_L3 L_L6 0.0257948682857
Kn_K12 L_L4 L_L5 0.9923355899534
Kn_K13 L_L4 L_L6 -0.097823434462
Kn_K14 L_L5 L_L6 0.025905798618
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_18 1 2 3 4 REF
C_C1 1 2 160.01192481621pf
C_C2 1 4 1.7572273090624pf
C_C3 2 REF 1.5100979316826pf
C_C4 2 3 0.6039925878458pf
C_C5 3 REF 0.3331302942269pf
C_C6 4 REF 0.3417112366521pf
R_R1 1 2 -214.6308239142
L_L1 1 5 0.7003973858744nh
R_RL1 5 2 0.0202854777002
L_L2 1 6 33.961859302675nh
R_RL2 6 3 0.014500088509
L_L3 1 7 33.247346288562nh
R_RL3 7 4 0.0146452091017
L_L4 2 8 34.052266483307nh
R_RL4 8 3 0.0017261696511
L_L5 2 9 33.341340647542nh
R_RL5 9 4 0.001637920397
L_L6 3 10 1.3151857625671nh
R_RL6 10 4 3.107197447e-5
Kn_K1 L_L1 L_L2 0.0625352482699
Kn_K2 L_L1 L_L3 0.06283196082
Kn_K3 L_L1 L_L4 -0.080964362914
Kn_K4 L_L1 L_L5 -0.082194155778
Kn_K5 L_L2 L_L3 0.9804868737797
Kn_K6 L_L2 L_L4 0.9897030519765
Kn_K7 L_L2 L_L5 0.9700401250371
Kn_K8 L_L2 L_L6 -0.151849132674
Kn_K9 L_L3 L_L4 0.9701732927046
Kn_K10 L_L3 L_L5 0.9894827218236
Kn_K11 L_L3 L_L6 0.0454188245806
Kn_K12 L_L4 L_L5 0.9805395651259
Kn_K13 L_L4 L_L6 -0.151379409176
Kn_K14 L_L5 L_L6 0.0456256137223
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_19 1 2 3 4 REF
C_C1 1 2 730.984774765pf
C_C2 1 4 7.8382318289901pf
C_C3 2 REF 5.3503123852585pf
C_C4 2 3 2.621566904707pf
C_C5 3 REF 0.3188230355063pf
C_C6 4 REF 0.3818456419859pf
R_R1 1 REF -676.3694821868
R_R2 1 2 21.753536530951
R_R3 2 REF 667.33318381095
L_L1 1 5 12.860545212082nh
R_RL1 5 REF -0.046413385231
L_L2 1 6 0.1042765098945nh
R_RL2 6 2 -7.211918218e-3
L_L3 1 7 6.4172091837599nh
R_RL3 7 3 -2.371761845e-3
L_L4 1 8 5.7638402426608nh
R_RL4 8 4 -2.88242429e-3
L_L5 2 9 12.791783361138nh
R_RL5 9 REF -0.102038257607
L_L6 2 10 6.4409238440114nh
R_RL6 10 3 -8.737318506e-4
L_L7 2 11 5.7922257308723nh
R_RL7 11 4 -6.509690143e-4
L_L8 3 12 19.161352971319nh
R_RL8 12 REF -0.09714524053
L_L9 3 13 1.2694454555303nh
R_RL9 13 4 1.4136949214e-5
L_L10 4 14 18.500306490832nh
R_RL10 14 REF -0.099117595862
Kn_K1 L_L1 L_L2 0.0747118452793
Kn_K2 L_L1 L_L5 0.9959385860583
Kn_K3 L_L1 L_L8 0.8155427545044
Kn_K4 L_L1 L_L10 0.8297363475824
Kn_K5 L_L2 L_L3 0.0492417060637
Kn_K6 L_L2 L_L4 0.0489453223332
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.078087710253
Kn_K9 L_L2 L_L7 -0.085349416377
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.8970766114083
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9918919163367
Kn_K15 L_L3 L_L7 0.8882688074868
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.336842784442
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.8891958893441
Kn_K21 L_L4 L_L7 0.9909794594007
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.1138784815287
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8147783759411
Kn_K26 L_L5 L_L10 0.8288059516565
Kn_K27 L_L6 L_L7 0.8974918005176
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.335405368495
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.1144603610065
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1957121951154
Kn_K35 L_L8 L_L10 0.966442310274
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_20 1 2 3 4 REF
C_C1 1 REF 11.00961421229pf
C_C2 1 3 5.6646787989686pf
C_C3 2 4 16.945619981525pf
C_C4 3 REF 0.3729360541938pf
C_C5 4 REF 0.2159218184321pf
R_R1 1 REF 422.09830296385
R_R2 1 2 16.367164397732
R_R3 2 REF -423.6169129503
L_L1 1 5 4.7697274937373nh
R_RL1 5 REF -3.867362526e-3
L_L2 1 6 0.3701749969867nh
R_RL2 6 2 -0.124602990488
L_L3 1 7 2.9832618841785nh
R_RL3 7 3 -0.062626012394
L_L4 1 8 2.4361542010663nh
R_RL4 8 4 -0.081428340521
L_L5 2 9 5.1159019226947nh
R_RL5 9 REF 0.0339198236125
L_L6 2 10 2.8735669783039nh
R_RL6 10 3 -0.010306513676
L_L7 2 11 2.2610908915063nh
R_RL7 11 4 -4.442282984e-3
L_L8 3 12 7.7600161818854nh
R_RL8 12 REF 0.0409553390216
L_L9 3 13 1.1892982716727nh
R_RL9 13 4 -1.192711255e-3
L_L10 4 14 7.2227444755009nh
R_RL10 14 REF 0.039476427116
Kn_K1 L_L1 L_L5 0.9631449433674
Kn_K2 L_L1 L_L8 0.7845764275823
Kn_K3 L_L1 L_L10 0.814071738203
Kn_K4 L_L2 L_L3 0.2283201736118
Kn_K5 L_L2 L_L4 0.287078346845
Kn_K6 L_L2 L_L5 1.0
Kn_K7 L_L2 L_L6 -0.126278768105
Kn_K8 L_L2 L_L7 -0.106632781599
Kn_K9 L_L2 L_L8 1.0
Kn_K10 L_L2 L_L9 0.0492593808942
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.7845567994585
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9369603552861
Kn_K15 L_L3 L_L7 0.7219801913438
Kn_K16 L_L3 L_L8 0.9920563692852
Kn_K17 L_L3 L_L9 -0.460924918223
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.6963542753132
Kn_K21 L_L4 L_L7 0.9218336079199
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.1886410303648
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L6 0.0299220569938
Kn_K26 L_L5 L_L7 0.022676205514
Kn_K27 L_L5 L_L8 0.7937425864434
Kn_K28 L_L5 L_L9 -0.01524427038
Kn_K29 L_L5 L_L10 0.8289206766843
Kn_K30 L_L6 L_L7 0.7739037033194
Kn_K31 L_L6 L_L8 1.0
Kn_K32 L_L6 L_L9 -0.487320128857
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.175876395112
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.2841695123829
Kn_K38 L_L8 L_L10 0.9212147020183
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_21 1 2 3 4 REF
C_C1 1 2 382.26272179495pf
C_C2 1 4 4.1132320867294pf
C_C3 2 REF 3.0044856022044pf
C_C4 2 3 1.394500528044pf
C_C5 3 REF 0.3261394649588pf
C_C6 4 REF 0.3554615284173pf
R_R1 1 2 -15.7563505304
L_L1 1 5 18.516072738705nh
R_RL1 5 REF -0.186336289889
L_L2 1 6 0.0949636654042nh
R_RL2 6 2 0.0149933644574
L_L3 1 7 8.3276278512538nh
R_RL3 7 3 0.0108218770252
L_L4 1 8 7.6594986240393nh
R_RL4 8 4 0.0114475829488
L_L5 2 9 18.363515165825nh
R_RL5 9 REF -0.262619121159
L_L6 2 10 8.3804912860765nh
R_RL6 10 3 5.1089711771e-4
L_L7 2 11 7.7198606693746nh
R_RL7 11 4 3.8525095401e-4
L_L8 3 12 26.691008285097nh
R_RL8 12 REF -0.254714683691
L_L9 3 13 1.281211473029nh
R_RL9 13 4 1.8642339758e-5
L_L10 4 14 26.014108043168nh
R_RL10 14 REF -0.256684552949
Kn_K1 L_L1 L_L2 0.0933317264932
Kn_K2 L_L1 L_L5 0.9974335685029
Kn_K3 L_L1 L_L8 0.8294640122592
Kn_K4 L_L1 L_L10 0.8399864262301
Kn_K5 L_L2 L_L3 0.0236709173873
Kn_K6 L_L2 L_L4 0.0202855847767
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.082853448312
Kn_K9 L_L2 L_L7 -0.090704720254
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.010748841443
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.9206641451769
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9943212930773
Kn_K16 L_L3 L_L7 0.9144323566474
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.298391667092
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.9155964233215
Kn_K22 L_L4 L_L7 0.9938329070173
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.0978539053853
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.8282630109961
Kn_K27 L_L5 L_L10 0.8385975304853
Kn_K28 L_L6 L_L7 0.921199193206
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.296304853723
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.0986627549601
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.1674227882926
Kn_K36 L_L8 L_L10 0.9757714253561
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_22 1 2 3 4 REF
C_C1 1 2 69.958134320587pf
C_C2 1 4 0.7832490840625pf
C_C3 2 REF 0.8912598761707pf
C_C4 2 3 0.2914463331556pf
C_C5 3 REF 0.3332932779488pf
C_C6 4 REF 0.3323818894654pf
R_R1 1 2 -127.0472063939
L_L1 1 5 0.3940577662707nh
R_RL1 5 2 0.0795242289961
L_L2 1 6 40.467525571738nh
R_RL2 6 3 0.0519561654392
L_L3 1 7 39.693806545677nh
R_RL3 7 4 0.0523215423362
L_L4 2 8 40.829747867037nh
R_RL4 8 3 0.021677812861
L_L5 2 9 40.064473800364nh
R_RL5 9 4 0.0211914552495
L_L6 3 10 1.3134164613006nh
R_RL6 10 4 -1.249918985e-5
Kn_K1 L_L1 L_L4 -0.094272355943
Kn_K2 L_L1 L_L5 -0.096231141446
Kn_K3 L_L2 L_L3 0.9836611571555
Kn_K4 L_L2 L_L4 0.9951627563482
Kn_K5 L_L2 L_L5 0.9787049612239
Kn_K6 L_L2 L_L6 -0.143141674803
Kn_K7 L_L3 L_L4 0.9789976381762
Kn_K8 L_L3 L_L5 0.995070095671
Kn_K9 L_L3 L_L6 0.0373729824236
Kn_K10 L_L4 L_L5 0.9838078029384
Kn_K11 L_L4 L_L6 -0.141928713074
Kn_K12 L_L5 L_L6 0.0377817828804
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_23 1 2 3 4 REF
C_C1 1 REF 0.2719857009818pf
C_C2 1 2 25.841471754996pf
C_C3 1 4 0.3132638598576pf
C_C4 2 REF 0.5912347817868pf
C_C5 2 3 0.1340220180264pf
C_C6 3 REF 0.3338018070885pf
C_C7 4 REF 0.328425365388pf
R_R1 1 2 -383.5425418669
L_L1 1 5 0.7777678506435nh
R_RL1 5 2 0.3315790053593
L_L2 3 6 1.3181998691903nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_24 1 2 3 4 REF
C_C1 1 REF 0.3648514916896pf
C_C2 1 2 12.425390472026pf
C_C3 1 3 0.0408092765949pf
C_C4 1 4 0.1730835416057pf
C_C5 2 REF 0.5162833073894pf
C_C6 2 3 0.0836685781559pf
C_C7 3 REF 0.3327069568359pf
C_C8 4 REF 0.3260689603795pf
L_L1 1 5 1.1648642382465nh
R_RL1 5 2 0.1217316406472
L_L2 3 6 1.3169545343248nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_25 1 2 3 4 REF
C_C1 1 REF 0.4033338787537pf
C_C2 1 2 7.3317478833918pf
C_C3 1 3 0.0651666717011pf
C_C4 1 4 0.1193679366827pf
C_C5 2 REF 0.497743400879pf
C_C6 2 3 0.0628749914844pf
C_C7 2 4 0.0180543562399pf
C_C8 3 REF 0.3309554183896pf
C_C9 4 REF 0.3237466261438pf
L_L1 1 5 1.7099015812441nh
R_RL1 5 2 2.3576620987e-4
L_L2 3 6 1.3146805065158nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_26 1 2 3 4 REF
C_C1 1 REF 0.4197217225599pf
C_C2 1 2 5.8082037655007pf
C_C3 1 3 0.0751810462744pf
C_C4 1 4 0.1015368408915pf
C_C5 2 REF 0.4935117349011pf
C_C6 2 3 0.0554101358901pf
C_C7 2 4 0.0385668117574pf
C_C8 3 REF 0.3297871104338pf
C_C9 4 REF 0.3222753702202pf
L_L1 1 5 1.8500899688255nh
R_RL1 5 2 1.0370056878e-4
L_L2 3 6 1.3136780200073nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param63_26

